US05153203
7-(1-Methyl-4-piperidyloxy)-1-ethyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (Compound No. 11)
To a mixture of 280 mg of 6,7-difluoro-1-ethyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 345 mg of N-methyl-4-piperidinol and 4 ml of DMF was added 200 mg of 50% sodium hydride while the former was stirred under ice cooling. After the resultant mixture was stirred for 2 hours at room temperature, 260 mg of acetic acid was added, followed by the addition of chloroform and water. The resultant mixture was thoroughly shaken and mixed. The chloroform layer was collected, washed with water, and then dried over sodium sulfate. The solvent was distilled off under reduced pressure. A solid thus precipitated was collected by filtration, whereby 38 mg of the title compound was obtained.

reactant | 6,7-difluoro-1-ethyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 280 mg | FC=1C=C2C(C(=CN(C2=CC1F)CC)C(=O)O)=O | C12H9F2NO3
reactant | N-methyl-4-piperidinol | 345 mg | CN1CCC(CC1)O | C6H13NO
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 200 mg | [H-].[Na+]
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 260 mg | C(C)(=O)O | C2H4O2
product | 7-(1-Methyl-4-piperidyloxy)-1-ethyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 38 mg | CN1CCC(CC1)OC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C18H21FN2O4
